US04410539
A mixture of 2-bromo-6-bromoacetyl-3-methylbenzo[b]thiophene (1.74 g.), imidazole (0.34 g.) and sodium carbonate (1.50 g.) in acetone (20 ml.) was heated under reflux for 2 hours and then evaporated. Water (50 ml.) was added to the residue and the mixture was extracted several times with ethyl acetate. The combined extracts were dried (Na2SO4) and evaporated to give a solid which was chromatographed on silica gel. Elution with chloroform gave a solid which was crystallized from isopropanol/petrol (b.p. 60°-80°) to give 2-bromo-6-(1-imidazolyl)acetyl-3-methylbenzo[b]thiophene (0.55 g.), m.p. 184°-186° C.

reactant | 2-bromo-6-bromoacetyl-3-methylbenzo[b]thiophene | 1.74 g | BrC1=C(C2=C(S1)C=C(C=C2)C(CBr)=O)C | C11H8Br2OS
reactant | imidazole | 0.34 g | N1C=NC=C1 | C3H4N2
reactant | sodium carbonate | 1.50 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-bromo-6-(1-imidazolyl)acetyl-3-methylbenzo[b]thiophene | 0.55 g | BrC1=C(C2=C(S1)C=C(C=C2)C(CN2C=NC=C2)=O)C | C14H11BrN2OS
